* source PRACTICA 1-1
V_V1         N14373 0  
+SIN 0 311 50 0 0 0
D_D1         N14373 N14409 Dbreak 
L_L1         N14409 N14438  10mH  
R_R1         0 N14438  10 TC=0,0 
