* source PRACTICA 1-3
D_D1         0 N14597 Dbreak 
D_D2         0 PCC2 Dbreak 
D_D3         PCC2 OUT Dbreak 
D_D4         N14597 OUT Dbreak 
L_L1         N14611 PCC1  0.5mH  
L_L2         PCC1 N14597  1mH  
C_Cf         0 OUT  1mF  TC=0,0 
R_Rcarga         0 OUT  {carga} TC=0,0 
V_V1         N14611 PCC2  
+SIN 0 311 50Hz 0 0 0
.PARAM  carga=10
