* source PRACTICA 1-5
D_D1         N14673 N14735 Dbreak 
D_D2         N14673 N14739 Dbreak 
D_D3         N14739 N14706 Dbreak 
D_D4         N14735 N14706 Dbreak 
C_Cf         N14706 N14673 1mF
R_Rcarga         N14673 N14706  10 TC=0,0 
R_R2         N14673 0  10meg TC=0,0 
L_Lr         N15798 N14735  1mH  
R_Rcarga1         N16437 N16459  10 TC=0,0 
D_D5         N16437 N16481 Dbreak 
D_D6         N16437 N14739 Dbreak 
D_D7         N14739 N16459 Dbreak 
D_D8         N16481 N16459 Dbreak 
L_Lr1         N16563 N16481  1mH  
C_Cf1         N16459 N16437 1mF
R_R3         N16437 0  10meg TC=0,0 
D_D12         N17056 N17034 Dbreak 
R_R4         N17012 0  10meg TC=0,0 
L_Lr2         N17138 N17056  1mH  
C_Cf2         N17034 N17012 1mF
D_D10         N17012 N14739 Dbreak 
R_Rcarga2         N17012 N17034  10 TC=0,0 
D_D11         N14739 N17034 Dbreak 
D_D9         N17012 N17056 Dbreak 
V_V1         N17138 0  AC 0
+SIN 0 311v 60Hz 0 0 0
V_V2         N15798 0  AC 0
+SIN 0 311v 50Hz 0 0 0
V_V3         N16563 0  AC 0
+SIN 0 311v 40Hz 0 0 0
R_R5         0 N14739 Rbreak 1m
